US08420632B2
A solution of 4.2 g (16.5 mmol) of methyl (S)-2-amino-3-tert-butoxycarbonylaminopropanoate hydrochloride and 4.95 g (16.5 mmol) of bis(2-chloroethyl)(4-trifluoromethylbenzyl)amine in 25 ml of N,N-diisopropylethylamine is heated at 127° C. for 6 h. After evaporation of a maximum amount of diisopropylethylamine, the reaction medium is diluted with ethyl acetate and washed with an aqueous solution of sodium hydroxide having a concentration of 1N. The organic phase obtained is washed with water, dried over magnesium sulfate, filtered and concentrated under vacuum. The crude residue is purified by chromatography on silica gel, elution being carried out with a 60/40 heptane/ethyl acetate mixture. 4.0 g (55%) of methyl (S)-3-tert-butoxycarbonylamino-2-[4-(4-trifluoromethylbenzyl)-piperazin-1-yl]propanoate are obtained in the form of an oil.

reactant | methyl (S)-2-amino-3-tert-butoxycarbonylaminopropanoate hydrochloride | 16.5 mmol, 4.2 g | Cl.N[C@H](C(=O)OC)CNC(=O)OC(C)(C)C
reactant | bis(2-chloroethyl)(4-trifluoromethylbenzyl)amine | 16.5 mmol, 4.95 g | ClCCN(CC1=CC=C(C=C1)C(F)(F)F)CCCl | C12H14Cl2F3N
solvent | N,N-diisopropylethylamine | 25 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | methyl (S)-3-tert-butoxycarbonylamino-2-[4-(4-trifluoromethylbenzyl)-piperazin-1-yl]propanoate | 4.0 g, 55% | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)CC1=CC=C(C=C1)C(F)(F)F | C21H30F3N3O4
